US07776864B2
Step 1: 6-phenylimidazo[1,2-a]pyrimidine-5,7-diol
18.3 g (0.0776 mol) diethylphenylmalonate and 20.5 g (0.0776 mol) 2-aminoimidazole sulfate are dissolved in 93 ml DMF and 35 ml DBU and the mixture heated to 100° C. for 15 h. The solvent is removed, the residue dissolved in water and re-precipitated by adjusting the pH to 1 with 2 mol/l HCl. The precipitate is collected by filtration to obtain the desired product.

reactant | diethylphenylmalonate | 0.0776 mol, 18.3 g | C(C)OC(C(C(=O)OCC)C1=CC=CC=C1)=O | C13H16O4
reactant | 2-aminoimidazole sulfate | 0.0776 mol, 20.5 g | S(=O)(=O)(O)O.NC=1NC=CN1
reactant | DBU | 35 ml | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DMF | 93 ml | CN(C)C=O | C3H7NO
product | 6-phenylimidazo[1,2-a]pyrimidine-5,7-diol | C1(=CC=CC=C1)C=1C(=NC=2N(C1O)C=CN2)O | C12H9N3O2
